US06340758B1
Synthesis of 6-Methyl-7-nitro-2,3-dioxo-1,2,3,4-tetrahydro-quinoxaline-5-carboxylic acid (9)
To a suspension of 6-methyl-7-nitro-2,3-dioxo-1,2,3,4-tetrahydro-quinoxaline-5-carboxylic acid, methyl ester (0.80 g, 2.87 mmol) in THF (50 mL) was added aqueous 1.0N NaOH (4.3 mL, 4.3 mmol), and the reaction mixture was refluxed for 23 hours. The product is precipitated upon acidification with conc. HCL and recrystallized from water to give 0.73 g (96%).

reactant | 6-methyl-7-nitro-2,3-dioxo-1,2,3,4-tetrahydro-quinoxaline-5-carboxylic acid, methyl ester | 2.87 mmol, 0.80 g | CC1=C(C=2NC(C(NC2C=C1[N+](=O)[O-])=O)=O)C(=O)OC | C11H9N3O6
reactant | NaOH | 4.3 mmol, 1.0N, 4.3 mL | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 6-Methyl-7-nitro-2,3-dioxo-1,2,3,4-tetrahydro-quinoxaline-5-carboxylic acid | CC1=C(C=2NC(C(NC2C=C1[N+](=O)[O-])=O)=O)C(=O)O | C10H7N3O6
